US06903107B1
2a. Ethyl N-tert-butoxycarbonyl-3-cyclohexylamino-propanoate
Ethyl acrylate (1.09 ml, 10 mmol) was added to a stirred solution of cyclohexylamine (1.14 ml, 10 mmol) in ethanol/tetrahydrofuran (1:1, v/v, 30 mL). After stirring overnight, pyridine and di-tert-butyl dicarbonate were subsequently added and the mixture was stirred for an additional 5 h. Concentration of the reaction mixture, followed by purification of the residue by silica gel chromatography (eluent ethyl acetate/heptane, 1:4, v/v) provided 2.18 g (73%) of the title compound as a white foam. ESI-MS: 300.2 (M+H)+, 244.2 (M+H—C4H8)30, 200.2 (M+H-Boc)+. Rf (silica gel; ethyl acetate, 1:4, v/v): 0.51.

reactant | Ethyl acrylate | 10 mmol, 1.09 ml | C(C=C)(=O)OCC | C5H8O2
reactant | cyclohexylamine | 10 mmol, 1.14 ml | C1(CCCCC1)N | C6H13N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol tetrahydrofuran | 30 mL | C(C)O.O1CCCC1
product | Ethyl N-tert-butoxycarbonyl-3-cyclohexylamino-propanoate | 2.18 g, 73% | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)C1CCCCC1 | C16H29NO4
